US07429660B2
5-Bromo-2-nitro-thioxanthen-9-one
2-(2-Bromo-phenylsulfanyl)-5-nitro-benzoic acid (34 g, 96 mmol) was suspended in methanesulphonic acid (400 ml) and heated at 150° C. The crude mixture was slowly poured onto ice with vigorous stirring and the precipitate formed was filtered. The solid was suspended into water (50 ml) quenched to pH 7-8 with conc. ammonia solution and filtered. The yellow/lime colored solid was dried under vacuum at 50° C. to give the crude title compound, which was used without any further purification (23.09 g, 72%).

reactant | 2-(2-Bromo-phenylsulfanyl)-5-nitro-benzoic acid | 96 mmol, 34 g | BrC1=C(C=CC=C1)SC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H8BrNO4S
solvent | methanesulphonic acid | 400 ml | CS(=O)(=O)O | CH4O3S
product | 5-Bromo-2-nitro-thioxanthen-9-one | BrC1=C2SC=3C=CC(=CC3C(C2=CC=C1)=O)[N+](=O)[O-] | C13H6BrNO3S
